US06911468B2
(1) 3-[2-(4-Benzyloxyphenyl)-5-methyl-1H-pyrrol-1-yl]propan-1-ol
A solution of 1-(4-benzyloxyphenyl)pentan-1,4-dione (5.00 g, 17.7 mmol), 3-amino-1-propanol (1.33 g, 17.7 mmol) and p-toluenesulfonic acid monohydrate (253 mg, 1.33 mmol) in toluene (100 ml) was refluxed for 12 hours under heating using Dean-Stark's apparatus, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give the object compound as a solid. 4.50 g (yield: 79.1%)

reactant | 1-(4-benzyloxyphenyl)pentan-1,4-dione | 17.7 mmol, 5.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CCC(C)=O)=O | C18H18O3
reactant | 3-amino-1-propanol | 17.7 mmol, 1.33 g | NCCCO | C3H9NO
reactant | p-toluenesulfonic acid monohydrate | 1.33 mmol, 253 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(4-Benzyloxyphenyl)-5-methyl-1H-pyrrol-1-yl]propan-1-ol | yield: 79.1% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N(C(=CC1)C)CCCO | C21H23NO2
